US08106070B2
1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride dichloromethane complex (57 mg, 0.07 mmol) was added to a degassed, ambient temperature solution of 2-[2-(4-bromophenyl)-1-hydroxy-1-methylethyl]-4-(2,2-dimethylbutyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide (329 mg, 0.70 mmol), sodium carbonate (222 mg, 2.1 mmol) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (217 mg, 1.4 mmol) in N,N-dimethylformamide/water (2:1) (30 mL). After stirring at 80° C. overnight, the reaction mixture was cooled, poured into water and extracted with diethyl ether. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-40% ethyl acetate/hexane afforded 4-(2,2-dimethylbutyl)-2-{1-hydroxy-1-methyl-2-[4-(1H-pyrazol-4-yl)phenyl]ethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide.

reactant | 2-[2-(4-bromophenyl)-1-hydroxy-1-methylethyl]-4-(2,2-dimethylbutyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.70 mmol, 329 mg | BrC1=CC=C(C=C1)CC(C)(O)C=1N(C=C(N1)CC(CC)(C)C)S(=O)(=O)N(C)C | C20H30BrN3O3S
reactant | sodium carbonate | 2.1 mmol, 222 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.4 mmol, 217 mg | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide water | 30 mL | CN(C=O)C.O
product | 4-(2,2-dimethylbutyl)-2-{1-hydroxy-1-methyl-2-[4-(1H-pyrazol-4-yl)phenyl]ethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)C=1C=NNC1)(C)O)(CC)C | C23H33N5O3S
